US08017630B2
2-(4-Dimethylamino-4-phenylcyclohexyl)-N-(1H-indol-3-ylmethyl)acetamide
1-Hydroxybenzotriazole (546 mg, 4.0 mmol), C-(1H-indol-3-yl)methylamine (292 mg, 2.0 mmol) and N-methylmorpholine (0.444 ml, 4.0 mmol) were added to a solution of (4-dimethylamino-4-phenylcyclohexyl)acetic acid hydrochloride (596 mg, 2.0 mmol) in dry dimethylformamide under argon. Dicyclohexylcarbodiimide (834 mg, 4.0 mmol) was added at 0° C. and the mixture was stirred at RT for 7 d. Working up of the mixture was carried out by separating off the urea which had precipitated out and introducing the filtrate into a mixture of saturated NaCl solution (40 ml) and saturated NaHCO3 solution (10 ml). A mixture of urea and product thereby precipitated out (482 mg) and was separated off. The filtrate obtained was diluted with water (300 ml), 5 M sodium hydroxide solution (4 ml, 20 mmol) was added and the mixture was stored at 5° C. for 16 h. A crude product thereby precipitated out as a beige-coloured substance (234 mg), which was separated off by filtration. After purification of the two product fractions by chromatography on silica gel with EA/methanol (4:1) and methanol, the product was isolated as a beige-coloured solid in a yield of 30% (230 mg).

reactant | 1-Hydroxybenzotriazole | 4.0 mmol, 546 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | C-(1H-indol-3-yl)methylamine | 2.0 mmol, 292 mg | N1C=C(C2=CC=CC=C12)CN | C9H10N2
reactant | N-methylmorpholine | 4.0 mmol, 0.444 ml | CN1CCOCC1 | C5H11NO
reactant | (4-dimethylamino-4-phenylcyclohexyl)acetic acid hydrochloride | 2.0 mmol, 596 mg | Cl.CN(C1(CCC(CC1)CC(=O)O)C1=CC=CC=C1)C
reactant | Dicyclohexylcarbodiimide | 4.0 mmol, 834 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | sodium hydroxide | 20 mmol, 5 M, 4 ml | [OH-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | 2-(4-Dimethylamino-4-phenylcyclohexyl)-N-(1H-indol-3-ylmethyl)acetamide | yield of 30% | CN(C1(CCC(CC1)CC(=O)NCC1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | C25H31N3O
